US06197729B1
c) 4-(1-methoxy-1-methyl-2,2,2-trifluoroethyl)phenol
At 50° C. and a hydrogen pressure of 5 bar, 24.5 g of 1-benzyloxy-4-(1-methoxy-1-methyl-2,2,2-trifluoroethyl)benzene in 150 ml of glacial acetic acid were hydrogenated in the presence of 1.4 g of palladium (10% on carbon). The catalyst was filtered off and the mixture was concentrated to give the title product as a colourless oil.

reactant | hydrogen | [H][H] | H2
reactant | 1-benzyloxy-4-(1-methoxy-1-methyl-2,2,2-trifluoroethyl)benzene | 24.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(F)(F)F)(C)OC | C17H17F3O2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | palladium | 1.4 g | [Pd] | Pd
product | 4-(1-methoxy-1-methyl-2,2,2-trifluoroethyl)phenol | COC(C(F)(F)F)(C)C1=CC=C(C=C1)O | C10H11F3O2
